US08492388B2
To a stirred solution of 3-[(hydroxyimino)(1-methyl-1H-tetrazol-5-yl)methyl]-N,N-dimethylaniline (2.90 g, 11 mmol) in dry acetonitrile (100 mL) were added 2-[6-(bromomethyl)pyridin-2-yl]-1H-isoindole-1,3(2H)-dione (3.74 g, 11.8 mmol), cesium carbonate (7.33 g, 22.5 mmol) and potassium iodide (0.89 g, 5.36 mmol). The reaction mixture was stirred at room temperature for 24 h, then insolubles were removed by filtration and washed with dichloromethane. The filtrates were combined and concentrated in vacuo. The residue was dissolved in dichloromethane (500 mL), washed with water (2×200 mL), and the organic layer was dried over MgSO4 and concentrated in vacuo to afford 2-(6-{[({[3-(dimethylamino)phenyl](1-methyl-1H-tetrazol-5-yl)methylene}amino)oxy]methyl}pyridin-2-yl)-1H-isoindole-1,3(2H)-dione as an orange solid [5.28 g, yield 97%; HPLC/MS:m/z=483 (M+H); log P(HCOOH)=3.17].

reactant | 3-[(hydroxyimino)(1-methyl-1H-tetrazol-5-yl)methyl]-N,N-dimethylaniline | 11 mmol, 2.90 g | ON=C(C=1C=C(N(C)C)C=CC1)C1=NN=NN1C | C11H14N6O
reactant | 2-[6-(bromomethyl)pyridin-2-yl]-1H-isoindole-1,3(2H)-dione | 11.8 mmol, 3.74 g | BrCC1=CC=CC(=N1)N1C(C2=CC=CC=C2C1=O)=O | C14H9BrN2O2
reactant | cesium carbonate | 22.5 mmol, 7.33 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | 5.36 mmol, 0.89 g | [I-].[K+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 2-(6-{[({[3-(dimethylamino)phenyl](1-methyl-1H-tetrazol-5-yl)methylene}amino)oxy]methyl}pyridin-2-yl)-1H-isoindole-1,3(2H)-dione | yield 97% | CN(C=1C=C(C=CC1)C(C1=NN=NN1C)=NOCC1=CC=CC(=N1)N1C(C2=CC=CC=C2C1=O)=O)C | C25H22N8O3
